TCFELab1

.options savecurrents

*the node 8 is the gnd = 0

Vin 1 4 5.03847501972
Id 0 6 1.01674167773m

*dumb voltage source
Vdumb CFP1 7 0

R1 2 1 1.03994439216k
R2 3 2 2.07923431764k
R3 2 5 3.06168544529k
R4 4 5 4.09516986362k
R5 5 6 3.00136467001k
R6 4 CFP1 2.03324628446k
R7 7 0 1.02216788331k

Gb 6 3 2 5 7.01505323139m
Hc 5 0 Vdumb 8.37372457746k

.op

.control
	run
	echo "op_TAB"
	print all
	echo "op_END"
.endc


.end