*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
vS 1 0 0 sin(0 5 100)
* vS 1 0 0 sin(0 5 400)

* passa-alto ordem 1 a entrada 
Ci 2 0 1u
Ri 1 2 1k

* positive limiter
Dp1 2 3 Default
Dp2 3 4 Default
Dp3 4 0 Default

* negative limiter
Dn1 0 5 Default
Dn2 5 6 Default
Dn3 6 2 Default


.model Default D
.op
.end

.control

******************************************
* analise no tempo
tran 1e-5 50e-3
* tran 1e-5 10e-3

plot  v(1) v(2)

******************************************
hardcopy vospice100.ps v(1) v(2)
* hardcopy vospice400.ps v(1) v(2)

.endc
