ola

.options savecurrents


V1 0 1 dc 1 ac 230 SINE(0 230 314 0 0 0)


R1 1 2 1k

*C1 2 0 10u


D1 2 3 Default
D2 3 4 Default
D3 4 5 Default
D4 5 0 Default

D5 0 6 Default
D6 6 7 Default
D7 7 2 Default

.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo "Transient analysis"
echo "********************************************"
tran 0.5e-4 200e-3 100e-3

hardcopy teste.ps -v(2)
echo zauzau_FIG


.endc